US07452992B2
To a solution of 2-methyl-1-{(1R,5S)-8-[2-(2-phenylmorpholin-2-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole trihyrdochloride (65 mg, 0.11 mmol) and Et3N (0.08 mL, 0.55 mmol in 1 mL CH2Cl2 was added trimethylacetyl chloride (0.02 mL, 0.17 mmol), and the reaction was stirred for 24 h. After washing with saturated aqueous NaHCO3, the organic phase was isolated, dried (Na2SO4), concentrated and chromatographed (5% (2M NH3/MeOH) in CHCl3) to afford 1-((1R,5S)-8-{2-[4-(2,2-dimethylpropanoyl)-2-phenylmorpholin-2-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole (61 mg, quant.) as a film: 1H NMR (400 MHz, CDCl3), δ 7.68 (m, 1H), 7.45-7.40 (m, 2H), 7.38-7.27 (m, 3H), 7.19-7.11 (m, 2H), 4.77-4.63 (m, 2H), 3.76-3.54 (m, 4H), 3.40-3.20 (m, 3H), 2.59 (s, 3H), 2.48-2.36 (m, 2H), 2.15-1.85 (m, 8H), 1.69-1.59 (m, 2H), 1.19 (s, 9H); ESI-MS 515 (M+H).

reactant | 2-methyl-1-{(1R,5S)-8-[2-(2-phenylmorpholin-2-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole trihyrdochloride | 0.11 mmol, 65 mg | Cl.Cl.Cl.CC1=NC2=C(N1C1C[C@H]3CC[C@@H](C1)N3CCC3(CNCCO3)C3=CC=CC=C3)C=CC=C2
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 0.17 mmol, 0.02 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-((1R,5S)-8-{2-[4-(2,2-dimethylpropanoyl)-2-phenylmorpholin-2-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | 61 mg | CC(C(=O)N1CC(OCC1)(C1=CC=CC=C1)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)(C)C | C32H42N4O2
